US05352793
Methyl 1-(3-methylbutyl)-1,4,5,6-tetrahydro-3-pyridyl ketone was prepared from 3-acetyl-1,4,5,6-tetrahydropyridine and 1-bromo-3-methylbutane according to the procedure of Part b) of Example 1. The product distilled as a pale yellow oil (b.pt. 103°-106° C./0.1 mm Hg).

reactant | 3-acetyl-1,4,5,6-tetrahydropyridine | C(C)(=O)C1=CNCCC1 | C7H11NO
reactant | 1-bromo-3-methylbutane | BrCCC(C)C | C5H11Br
product | Methyl 1-(3-methylbutyl)-1,4,5,6-tetrahydro-3-pyridyl ketone | CC(CCN1C=C(CCC1)C(=O)C)C | C12H21NO
